US05750050
Step 1.2 Preparation of hexahydroxytriphenylene.
Boron tribromide (8.6 g, 0.034 mol) in dry dichloromethane (80 ml) was added to hexamethoxytriphenylene (2 g, 0.0049 mol) in dry dichloromethane (100 ml) under a dry nitrogen atmosphere at -80° C. The mixture was allowed to warm to room temperature overnight. Water was added and the dichloromethane was removed under reduced pressure. The crude product was filtered off. The hexahydroxytriphenylene was purified by recrystallisation from water.

reactant | Boron tribromide | 0.034 mol, 8.6 g | B(Br)(Br)Br | BBr3
reactant | hexamethoxytriphenylene | 0.0049 mol, 2 g | COC=1C(=C2C=3C(=C(C(=C(C3C3=CC=CC=C3C2=CC1)OC)OC)OC)OC)OC | C24H24O6
reactant | Water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | hexahydroxytriphenylene | OC=1C(=C2C=3C(=C(C(=C(C3C3=CC=CC=C3C2=CC1)O)O)O)O)O | C18H12O6
